US07452893B2
Step 1: trans-[4-(2-(2-Methylphenyl)-3-phenyl-allyloxy)-cyclohexyl]-carbamic acid benzyl ester
From trans-[4-(2-bromo-3-phenyl-allyloxy)-cyclohexyl]-carbamic acid benzyl ester, and 2-methylphenylboronic acid using the procedure described above for Example 11, Step 4, gave the product as a white crystalline solid: MS (m+1)=456.5; 1H NMR (400 MHz, CDCl3) 7.3 (m, 2H), 7.2 (m, 7H), 7.05 (m, 3H), 6.85 (m, 2H), 6.66 (s 1H), 5.05 (s, 2H), 4.55 (s, 1H), 4.28 (s, 2H), 3.5 (m, 1H), 3.42 (s, 3H), 3.3 (m, 1H), 2.0 (m, 4H), 1.4 (dd, 2H), 1.15 (dd, 2H).

reactant | trans-[4-(2-bromo-3-phenyl-allyloxy)-cyclohexyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N[C@@H]1CC[C@H](CC1)OCC(=CC1=CC=CC=C1)Br)=O | C23H26BrNO3
reactant | 2-methylphenylboronic acid | CC1=C(C=CC=C1)B(O)O | C7H9BO2
product | trans-[4-(2-(2-Methylphenyl)-3-phenyl-allyloxy)-cyclohexyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N[C@@H]1CC[C@H](CC1)OCC(=CC1=CC=CC=C1)C1=C(C=CC=C1)C)=O | C30H33NO3
